US08039480B2
Methyl (S)-2-benzyloxycarbonylamino-3-chlorocarbonylpropionate
Z-asp-OMe (175 g, 622 mmol) was dissolved in THF (1750 ml) and admixed with 2 ml of DMF. 86.9 g (684 mmol) of oxalyl chloride were dissolved in 200 ml of THF (slightly exothermic), cooled back to room temperature (RT) and added dropwise to the solution of the amino acid over 1 hour (h). After a further hour at RT, the solution was initially sparged with nitrogen for 10 min, concentrated on a rotary evaporator at a maximum of 30° C. and coevaporated repeatedly with toluene. The resulting dirty white solid was dried to constant weight under in-house vacuum (about 1.5 mbar) and reacted further without further purification. Yield: 186.6 g (quantitative).

reactant | Z-asp-OMe | 622 mmol, 175 g | COC(=O)[C@H](CC(=O)O)NC(=O)OCC1=CC=CC=C1 | C13H15NO6
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 684 mmol, 86.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 1750 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Methyl (S)-2-benzyloxycarbonylamino-3-chlorocarbonylpropionate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC(=O)Cl | C13H14ClNO5
